US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[(ethylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (750 mg, 1.48 mmol) and ethylamine (2M in THF, 2.22 ml, 4.4 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 1.48 mmol, 750 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | ethylamine | 4.4 mmol, 2M, 2.22 ml | C(C)N | C2H7N
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[(ethylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNCC | C21H37N3O3
